US04622318
A solution of 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid (syn isomer) (380 mg) and sodium acetate (937 mg) in water (8 ml) was stirred at ambient temperature overnight. The mixture was adjusted to pH 1.6 with 6N-hydrochloric acid. This solution was subjected to column chormatography on macroporous non-ionic adsorption resin "Diaion HP 20" (15 ml). After the column was washed with water, the elution was carried out with 25% aqueous isopropyl alcohol. The eluates containing the object compound were collected, evaporated to remove isopropyl alcohol under reduced pressure and lyophilized to give 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid hydrochloride (syn isomer) (170 mg).

reactant | 7-[2-methoxyimino-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}acetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid | 380 mg | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=C)C(=O)O)C1=O)C=1N=C(SC1)NC(C(F)(F)F)=O | C18H16F3N5O6S3
reactant | sodium acetate | 937 mg | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 8 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinylthiomethyl-3-cephem-4-carboxylic acid hydrochloride | 170 mg | Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=C)C(=O)O)C1=O)=NOC | InChI=1S/C16H17N5O5S3.ClH/c1-3-27-4-7-5-28-14-10(13(23)21(14)11(7)15(24)25)19-12(22)9(20-26-2)8-6-29-16(17)18-8;/h3,6,10,14H,1,4-5H2,2H3,(H2,17,18)(H,19,22)(H,24,25);1H/t10?,14-;/m1./s1
